US07943639B2
tert-Butyl-4-(2-{[3-(trifluoromethyl)benzyl]sulfonyl}thieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with 3-(trifluoromethyl)benzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.023 g (10% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.14 (d, J=6 Hz, 1H), 7.85-7.91 (m, 1H), 7.61-7.72 (m, 2H), 7.50-7.60 (m, 1H), 7.12-7.31 (m, 2H), 4.74 (s, 2H), 3.52-3.71 (m, 8H), 1.50 (s, 9H); MS (ESI+) for C24H26F3N3O4S2 m/z 542 (M+H)+. HPLC 85%, RT 2.13 min (YMC ODS AQ, 33×3 mm, 10-90% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 3-(trifluoromethyl)benzylbromide | 0.59 mmol | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl-4-(2-{[3-(trifluoromethyl)benzyl]sulfonyl}thieno[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1C=C(S2)S(=O)(=O)CC2=CC(=CC=C2)C(F)(F)F | C24H26F3N3O4S2
